US04843100
In a mixed solution consisting of 5 ml of acetic acid and 10 ml of trifluoroacetic acid was dissolved under heating 0.6 g of N-(2-fluoro-6-chlorobenzoyl)-N'-[2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfinyl)phenyl]urea, and 1.5 ml of 30% hydrogen peroxide aqueous solution was added to the solution, followed by heating at 90° C. for 2 hours. The reaction mixture was diluted with water, and the crystals which separated out were recovered by filtration, and washed with water and ethanol successively to give 0.6 g of N-(2-fluoro-6-chlorobenzoyl)-N'-[2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfonyl)phenyl]urea (Compound No. 6), m.p. of 176°-177° C.

reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(2-fluoro-6-chlorobenzoyl)-N'-[2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfinyl)phenyl]urea | 0.6 g | FC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)S(=O)C(C(F)F)(F)F)F)C(=CC=C1)Cl | C16H9ClF6N2O3S
reactant | hydrogen peroxide | 1.5 ml | OO | H2O2
solvent | water | O | H2O
product | N-(2-fluoro-6-chlorobenzoyl)-N'-[2-fluoro-4-(1,1,2,2-tetrafluoroethylsulfonyl)phenyl]urea | 0.6 g | FC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)S(=O)(=O)C(C(F)F)(F)F)F)C(=CC=C1)Cl | C16H9ClF6N2O4S
